* Z:\home\winson\CanSat\UCSD-Cansat-2016-17\hardware\sim\sim1.asc
I1 0 N002 PULSE(0.01 400m 0 1m 1m 1000 1000000)
D2 N004 highline d_schottky
C1 N004 0 0.1
D3 0 ref BZX84-A3V6
C2 highline 0 50µ
C3 vout 0 50µ
XU2 highline vout vout 0 LP38691_3P3_TRANS
D4 N001 highline d_schottky
R2 N003 0 200K
R3 N002 0 10k
R4 N001 N002 1
XU3 highline ref highline 0 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 vout 0 50
D7 N002 0 D_large
Q1 highline N003 N004 0 NPN
R1 N001 ref 100k
I2 vout 0 PULSE(0 410m 1 1m 1m 100m 200m 2)
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 3
.lib opamp.sub
.model d_schottky D(Ron=.1n Roff=1G Vfwd=0.2)
.lib .\BZX84-A3V6.prm
.model D_large D(Ron=1 Roff=1G Vfwd=6)
.lib .\lp38691_3p3_trans.lib
.lib UniversalOpamps2.sub
.backanno
.end
